US07399759B2
Methyl ({[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl}sulfinyl)acetate
Methyl ({[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl}thio)acetate (0.10 g, 0.28 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (ca. 77%, 0.064 g, 0.28 mmol) in chloroform (10 ml) was added dropwise thereto. The mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.096 g, 92%) as pale yellow crystals.

reactant | Methyl ({[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl}thio)acetate | 0.28 mmol, 0.10 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CSCC(=O)OC | C17H14N2O3S2
reactant | 3-chloroperbenzoic acid | 0.28 mmol, 0.064 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl ({[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl}sulfinyl)acetate | 0.096 g, 92% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CS(=O)CC(=O)OC | C17H14N2O4S2
